US05068435
Preparation of 2-ethyl-6-isopropylaniline
The procedure of Example 6 was repeated, except that 2-ethylaniline was substituted for ortho-toluidine. Table 5 sets forth the reaction conditions and product selectivity.

reactant | 2-ethylaniline | C(C)C1=C(N)C=CC=C1 | C8H11N
reactant | ortho-toluidine | NC=1C(=CC=CC1)C | C7H9N
product | 2-ethyl-6-isopropylaniline | C(C)C1=C(N)C(=CC=C1)C(C)C | C11H17N
